US07265149B2
c] {6-[2-Methyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester
To an ice cold solution of (6-hydroxy-indol-1-yl)-acetic acid ethyl ester (35 mg, 160 μmol; example 2 e]), [2-methyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-methanol (41 mg, 160 μmol) and tributylphosphine (50 μl, 19 μmol) in tetrahydrofuran (3.5 ml) was added N,N,N′,N′-tetramethyl azodicarboxamide (33 mg, 19 μmol). The cooling bath was removed and stirring continued for 14 h. The mixture was filtered over celite and the solvent removed under reduced pressure to give a brown oil which was purified by column chromatography (silica gel, heptane/AcOEt) to obtain 22 mg (50 μmol, 30%) of the title compound as colorless oil.

reactant | (6-hydroxy-indol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)O)=O | C12H13NO3
reactant | [2-methyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-methanol | 160 μmol, 41 mg | CN1N=C(C=C1CO)C1=CC=C(C=C1)C(F)(F)F | C12H11F3N2O
reactant | tributylphosphine | 19 μmol, 50 μl | C(CCC)P(CCCC)CCCC | C12H27P
reactant | N,N,N′,N′-tetramethyl azodicarboxamide | 19 μmol, 33 mg | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
product | {6-[2-Methyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester | 50 μmol, 22 mg, 30% | C(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1N(N=C(C1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C24H22F3N3O3
